data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4211,4817,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][c:16]([C:17]([CH3:18])=[O:19])[o:20][c:21]1=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[O:15][C:16]1([C:17]([CH3:18])=[O:19])[O:20][C:21]2=[O:22],water,298.15,20.67289315750036,-11.700494393478706
300,326,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][C:9](=[O:10])[CH:11]=[O+:12][C-:13]([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19]>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:11]([C:9]([CH3:8])=[O:10])[O:12][C:13]1([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19],water,298.15,13.686407039831696,-57.75665973987135
4747,5422,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([NH+:15]=[C:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])([C:19]([CH3:20])=[O:21])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,26.896766410938447,-10.879420096661182
289,313,[CH3:9][C:10](=[O:11])[C:12]#[N+:13][CH-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:12]([C:10]([CH3:9])=[O:11])=[N:13][CH:14]3[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,13.997802133332977,-58.5589915791081
2188,2426,[CH3:18][O:19][C:20](=[O:21])[c:22]1[o:23][c:24](=[O:25])[c-:26]([C:27]#[N:28])[o+:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]1([C:20]([O:19][CH3:18])=[O:21])[O:23][C:24](=[O:25])[C:26]2([C:27]#[N:28])[O:29]1,water,298.15,16.93681220899133,-27.9114997963472
3865,4423,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[CH-:16][C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]#[N:13])[N:14]([CH3:15])[CH:16]1[C:17](=[O:18])[O:19][CH3:20],water,298.15,22.68375762944566,-17.53553237889476
592,649,[CH3:11][C:12](=[NH+:13][C-:14]([C:15]#[N:16])[C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[N:1]#[C:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:12]([CH3:11])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[NH:13][C:14]1([C:15]#[N:16])[C:17]#[N:18],water,298.15,25.35708430933704,-21.80334368492204
530,579,[CH3:13][C:14](=[O:15])[C:16](=[NH+:17][O-:18])[C:19]([CH3:20])=[O:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[O:18][NH:17][C:16]2([C:14]([CH3:13])=[O:15])[C:19]([CH3:20])=[O:21],water,298.15,23.44795390812724,-7.114990912869956
4776,5454,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[o+:26]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]1([c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[C:17](=[O:18])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[O:26]1,water,298.15,9.88724737685632,-18.074942683720817
41,48,[CH3:10][C:11](=[O:12])[N:13]=[NH+:14][O-:15].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[O:15][NH:14][N:13]1[C:11]([CH3:10])=[O:12],water,298.15,31.10197167892824,-24.041721698292843
1830,2028,[CH3:15][O:16][C:17](=[O:18])[CH:19]=[N+:20]([CH3:21])[C-:22]([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:22]([C:23]#[N:24])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:20]([CH3:21])[CH:19]3[C:17]([O:16][CH3:15])=[O:18],water,298.15,16.703520306113568,-41.28217032170389
4768,5446,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]([CH3:18])=[O:19])([C:20]([CH3:21])=[O:22])[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:23]([CH3:24])=[O:25],water,298.15,11.54075620525,-34.41217242832688
